US06174459B1
A mixture of 57.3 g (167 mmol) of methoxymethyl-triphenylphosphonium chloride and 500 ml of THF was cooled to −30° C. under a nitrogen gas stream with a refrigeration medium. 17.3 g (154 mmol) of t-BuOK was added to this mixture, followed by stirring for 1 hour. To this mixture, 300 ml of THF containing 34.0 g (129 mmol) of 3-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)propanal was added dropwise, while a temperature of −30° C. or less was maintained. After the dropping, a reaction temperature was gradually raised to room temperature, followed by stirring for 5 hours. The reaction mixture was filtered through Celite, and the solvent was then distilled off under reduced pressure. The resulting residue was purified through silica gel column chromatography (a developing solvent: heptane) to obtain 30.3 g of crude 1-methoxy-4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)-1-butene.

reactant | methoxymethyl-triphenylphosphonium chloride | 167 mmol, 57.3 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 154 mmol, 17.3 g | CC(C)(C)[O-].[K+]
reactant | 3-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)propanal | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC=O | C18H32O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 129 mmol, 300 ml, 34.0 g | C1CCOC1 | C4H8O
product | 1-methoxy-4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)-1-butene | 30.3 g | COC=CCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C20H36O
